US07544812B2
3-(4-{2-[1-(3,4-Dimethyl-benzyl)-3-methyl-2-oxo-imidazolidin-4-yl]-ethoxy}-phenyl)-2-methyl-2-(4-trifluoromethyl-phenoxy)-propionic acid
To a mixture of 80 mg of 2-Methyl-3-{4-[2-(3-methyl-2-oxo-imidazolidin-4-yl)-ethoxy]-phenyl}-2-(4-trifluoromethyl-phenoxy)-propionic acid ethyl ester in 5 mL of dry DMF at 0° C. under an atmosphere of nitrogen, 16 mg of NaH (0.40 mmol) is added. The resulting solution is allowed to stand at r.t. for 20 min. Then 0.06 mL of 3,4-dimethylbenzyl chloride is added and resulting mixture is allowed to stand at r.t. for overnight. Reaction mixture is diluted with Et2O and 1N HCl. Organic layer is then washed with 1N HCl (2×10 mL), brine (2×10 mL), dried over Na2SO4, filtered and concentrated under vacuum. The crude material is in 5 mL of EtOH and 0.5 mL of 5N NaOH. The mixture is heated to reflux for 1 h. The organic solvent is then removed under vacuum and residue is dissolved in CH2Cl2 and 1N HCl. Aqueous layer is washed with CH2Cl2 (2×10 ml). Combined organic layer is dried over Na2SO4, filtered and concentrated under vacuum. The crude material is purified by MS/LC to give 54 mg (56%) of the title product. 1H NMR (400 MHz, CDCl3): δ 7.51 (d, 2H, J=8.6 Hz), 7.16 (d, 1H, J=8.6 Hz), 7.10 (d, 1H, J=8.0 Hz), 7.06 (d, 1H, J=8.0 Hz), 6.99-6.94 (m, 3H), 6.75 (d, 2H, J=8.4 Hz), 4.33, 4.25 (ABq, 2H, J=14.8 Hz), 4.07 (bs, 1H), 3.97-3.93 (m, 2H), 3.70-3.65 (m, 1H), 3.41 (t, 1H, J=8.8 Hz), 3.32, 3.16 (ABq, 2H, J=13.8 Hz), 3.03 (t, 1H, J=8.8 Hz), 2.85 (s, 3H), 2.28-2.20 (m, 1H), 2.22 (s, 3H), 1.96-1.88 (m, 1H), 1.50 (s, 3H). HRMS (ES+) m/z exact mass calcd for C32H36N2O5F3 (m+1) 585.2576, found 585.2578.

reactant | 2-Methyl-3-{4-[2-(3-methyl-2-oxo-imidazolidin-4-yl)-ethoxy]-phenyl}-2-(4-trifluoromethyl-phenoxy)-propionic acid ethyl ester | 80 mg | C(C)OC(C(CC1=CC=C(C=C1)OCCC1N(C(NC1)=O)C)(OC1=CC=C(C=C1)C(F)(F)F)C)=O | C25H29F3N2O5
reactant | NaH | 0.40 mmol, 16 mg | [H-].[Na+]
reactant | 3,4-dimethylbenzyl chloride | 0.06 mL | CC=1C=C(CCl)C=CC1C | C9H11Cl
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | Et2O | CCOCC | C4H10O
solvent | HCl | 1N | Cl | ClH
product | 3-(4-{2-[1-(3,4-Dimethyl-benzyl)-3-methyl-2-oxo-imidazolidin-4-yl]-ethoxy}-phenyl)-2-methyl-2-(4-trifluoromethyl-phenoxy)-propionic acid | 54 mg, 56% | CC=1C=C(CN2C(N(C(C2)CCOC2=CC=C(C=C2)CC(C(=O)O)(OC2=CC=C(C=C2)C(F)(F)F)C)C)=O)C=CC1C | C32H35F3N2O5
